US07273868B2
A mixture of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-methylthiopyrimidine (prepared in the above (3)) 100 mg, 4-hydroxypiperidine 78 mg, triethylamine 0.11 ml and N,N-dimethylacetamide 3 ml is stirred at room temperature for 1 hour. The reaction mixture is diluted a 10% aqueous citric acid solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-methylthiopyrimidine as a colorless caramel 132 mg.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)Cl)SC)C=CC1OC | C15H15Cl2N3O3S
reactant | 4-hydroxypiperidine | 78 mg | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CCC(CC2)O)SC)C=CC1OC | C20H25ClN4O4S
